US08222416B2
To a solution of 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-ethanol (1.23 g, 3.04 mmol) in dichloromethane (100 ml) was added Dess-Martin periodinane (3.87 g, 9.12 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (60 mL). The mixture was extracted with ethyl acetate (150 mL), washed with a saturated aqueous sodium bicarbonate solution (3×30 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 33% ethyl acetate/hexanes) to afford 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-ethanone (1.1 g, 90%) as a light yellow solid: LC/MS m/e calcd for C20H19FN2O4S [M+H]+ 403.45, observed 403.2.

reactant | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-ethanol | 3.04 mmol, 1.23 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC2CCOCC2)O | C20H21FN2O4S
reactant | Dess-Martin periodinane | 9.12 mmol, 3.87 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-ethanone | 1.1 g, 90% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC2CCOCC2)=O | C20H19FN2O4S
